US07456164B2
Intermediate 10: 1-(3-Chloro-propyl)-piperidin-4-ol
4-Hydroxypiperidine (3 g, 30 mmol), acetone (60 ml, 20 vol), 5M NaOH solution (7.2 ml) and 1-bromo-3-chloropropane (14.2 g, 90 mmol, 3 eq.) were reacted together according to general procedure A to give the title compound (1.5 g, 28%) as a pale yellow oil.

reactant | 4-Hydroxypiperidine | 30 mmol, 3 g | OC1CCNCC1 | C5H11NO
reactant | NaOH | 5M, 7.2 ml | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | 90 mmol, 14.2 g, 3 eq. | BrCCCCl | C3H6BrCl
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 1-(3-Chloro-propyl)-piperidin-4-ol | 1.5 g, 28% | ClCCCN1CCC(CC1)O | C8H16ClNO
